US06747023B1
4-[(6-Chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine-2-carbohydroxamic acid
In methanol (10 ml), 4-[(6-chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-2-[[N-(tetrahydropyran-2-yloxy)]carbamoyl]piperazine (297 mg) was dissolved, followed by the addition of 1N hydrochloric acid (10 ml). The resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure. The residue was purified by “HP-20” (Φ1.7×20.0 cm, acetonitrile:water=1:5), whereby the title compound (65 mg) was obtained as a pale yellow foam.

reactant | 4-[(6-chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-2-[[N-(tetrahydropyran-2-yloxy)]carbamoyl]piperazine | 297 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)C(NOC1OCCCC1)=O | C28H32ClN5O6S2
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 4-[(6-Chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine-2-carbohydroxamic acid | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)C(=O)NO | C23H24ClN5O5S2
